US04130560
1,3-Di-(4'-methoxycarbonylbenzyl)-5,5-diethylbarbituric acid
A mixture of 46.05 g (0.25 mol) of diethylbarbituric acid, 96.9 g (0.525 mol) of 4-chloromethylbenzoic acid methyl ester and 38 g (0.275 mol) of finely ground, anhydrous potassium carbonate in 450 ml of dimethylformamide is stirred at room temperature and is heated to 100° C over the course of 2 hours. The reaction solution is kept at 100° C for one hour and the temperature is then raised to 135° C, whilst stirring. Stirring is continued for a further 4 hours at 135° C and the reaction mixture is then filtered, while still hot. 77.8 g of colourless crystals can be isolated from the cooled filtrate and concentrating the mother liquor gives a further 42 g of a syrup which crystallises (total yield of crude material: 119.8 g; theory: 120.1 g).

reactant | diethylbarbituric acid | 0.25 mol, 46.05 g | C(C)C1(C(NC(NC1=O)=O)=O)CC | C8H12N2O3
reactant | 4-chloromethylbenzoic acid methyl ester | 0.525 mol, 96.9 g | COC(C1=CC=C(C=C1)CCl)=O | C9H9ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | 1,3-Di-(4'-methoxycarbonylbenzyl)-5,5-diethylbarbituric acid | 77.8 g | COC(=O)C1=CC=C(CN2C(=O)N(C(=O)C(C2=O)(CC)CC)CC2=CC=C(C=C2)C(=O)OC)C=C1 | C26H28N2O7
